US05418232
To 1.5 l of diethyl ether was added 12.63 g (33.67 mmol) of 3-bromo-3,4-dihydro-2,2-dimethyl-6-pentafluoroethyl-2H-1-benzopyran-4-ol synthesized according to the process of JP-B-2-237985, and 30.2 g of potassium hydroxide was added thereto, followed by stirring at room temperature for 54 hours. The insoluble material was removed by filtration, and the solvent was removed by distillation under reduced pressure to yield 9.5 g (96.2%) of 3,4-dihydro-2,2-dimethyl-3,4-epoxy-6-pentafluoroethyl-2H-1-benzopyran.

reactant | 3-bromo-3,4-dihydro-2,2-dimethyl-6-pentafluoroethyl-2H-1-benzopyran-4-ol | 33.67 mmol, 12.63 g | BrC1C(OC2=C(C1O)C=C(C=C2)C(C(F)(F)F)(F)F)(C)C | C13H12BrF5O2
reactant | potassium hydroxide | 30.2 g | [OH-].[K+]
solvent | diethyl ether | 1.5 l | C(C)OCC | C4H10O
product | 3,4-dihydro-2,2-dimethyl-3,4-epoxy-6-pentafluoroethyl-2H-1-benzopyran | 9.5 g, 96.2% | CC1(OC2=C(C3C1O3)C=C(C=C2)C(C(F)(F)F)(F)F)C | C13H11F5O2
